US08106045B2
Chloroacetyl chloride (27.5 g, 243 mmol) was dropped to a solution of 4-((1S)-2-benzylamino-1-hydroxyethyl)phenyl methanesulfonate (71 g, 221 mmol) in 1N aqueous sodium hydroxide (330 ml) and stirred for one hour at room temperature. Resulting solution was extracted with chloroform, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. Potassium hydroxide (85%, 17.5 g, 265 mmol) was added to a solution of the resulting pale brown oil in 2-propanol (600 ml), and the mixture was stirred for 10 hours. The solvent was removed in vacuo and the residue was partitioned between water and chloroform. The organic layer was washed with 0.5 M hydrochloric acid, saturated sodium hydrogen carbonate, brine and dried over anhydrous magnesium sulfate. Removal of the solvent under reduced pressure furnished 4-((2S)-4-benzyl-5-oxo-morpholin-2-yl)phenyl methanesulfonate (79.8 g, 100%) as a brown oil.

reactant | Chloroacetyl chloride | 243 mmol, 27.5 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 4-((1S)-2-benzylamino-1-hydroxyethyl)phenyl methanesulfonate | 221 mmol, 71 g | CS(=O)(=O)OC1=CC=C(C=C1)[C@@H](CNCC1=CC=CC=C1)O | C16H19NO4S
reactant | Potassium hydroxide | 265 mmol, 17.5 g | [OH-].[K+]
solvent | sodium hydroxide | 1N, 330 ml | [OH-].[Na+]
solvent | 2-propanol | 600 ml | CC(C)O | C3H8O
product | 4-((2S)-4-benzyl-5-oxo-morpholin-2-yl)phenyl methanesulfonate | 79.8 g, 100% | CS(=O)(=O)OC1=CC=C(C=C1)[C@H]1CN(C(CO1)=O)CC1=CC=CC=C1 | C18H19NO5S
